US05698577
(1S,5R)-6-(3,4-Dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]-heptane
This compound was prepared analogously to Example 2 from benzyl (1S,5R)-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate by treatment with Pd/C and cyclohexadiene.

reactant | benzyl (1S,5R)-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | COC=1C=C(CN2[C@@H]3CCN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)C=CC1OC | C22H24N2O5
reactant | cyclohexadiene | C1=CC=CCC1 | C6H8
catalyst | Pd/C | [Pd] | Pd
product | (1S,5R)-6-(3,4-Dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]-heptane | COC=1C=C(CN2[C@@H]3CCN[C@@H]3C2=O)C=CC1OC | C14H18N2O3
